* SPICE netlist generated by Yosys 0.35+36 (git sha1 c95298225, gcc 11.4.0-1ubuntu1~22.04 -fPIC -Os)

X0 ith.10 1 sky130_fd_sc_hd__clkinv_1
X1 ith.1 ith.0 2 sky130_fd_sc_hd__nand2_1
X2 ith.1 ith.0 ith.2 3 sky130_fd_sc_hd__nand3_1
X3 ith.1 ith.0 ith.3 ith.2 4 sky130_fd_sc_hd__nand4_1
X4 ith.5 ith.4 5 sky130_fd_sc_hd__nand2_1
X5 ith.5 ith.4 ith.7 ith.6 6 sky130_fd_sc_hd__nand4_1
X6 4 6 7 sky130_fd_sc_hd__nor2_1
X7 ith.8 ith.9 8 sky130_fd_sc_hd__nand2_1
X8 ith.11 ith.10 9 sky130_fd_sc_hd__nand2_1
X9 4 6 8 9 10 sky130_fd_sc_hd__nor4_1
X10 ith.13 ith.12 11 sky130_fd_sc_hd__and2_0
X11 10 11 12 sky130_fd_sc_hd__nand2_1
X12 ith.14 10 11 13 sky130_fd_sc_hd__nand3_1
X13 ith.7 5 14 sky130_fd_sc_hd__nor2_1
X14 ith.5 ith.7 ith.6 15 sky130_fd_sc_hd__nor3_1
X15 16 ith.6 14 15 ith.4 sky130_fd_sc_hd__a22oi_1
X16 ith.13 ith.14 17 sky130_fd_sc_hd__nor2_1
X17 ith.13 ith.12 ith.14 18 sky130_fd_sc_hd__or3_1
X18 ith.11 19 ith.10 sky130_fd_sc_hd__lpflow_inputiso1p_1
X19 ith.8 ith.9 18 19 20 sky130_fd_sc_hd__nor4_1
X20 20 21 4 sky130_fd_sc_hd__nand2b_1
X21 ith.9 18 19 22 ith.8 sky130_fd_sc_hd__nor4b_1
X22 ith.11 8 18 23 sky130_fd_sc_hd__nor3_1
X23 ith.11 1 8 18 24 sky130_fd_sc_hd__nor4_1
X24 25 22 24 7 sky130_fd_sc_hd__o21ai_0
X25 ith.1 ith.2 26 ith.0 sky130_fd_sc_hd__or3b_1
X26 ith.5 ith.4 ith.7 ith.6 27 sky130_fd_sc_hd__or4_1
X27 28 3 26 27 ith.3 sky130_fd_sc_hd__a211oi_1
X28 29 ith.12 10 20 28 17 sky130_fd_sc_hd__a32oi_1
X29 binary.0 16 21 25 29 13 sky130_fd_sc_hd__o2111ai_1
X30 14 20 30 4 sky130_fd_sc_hd__nand3b_1
X31 7 23 31 sky130_fd_sc_hd__nand2_1
X32 ith.3 2 27 32 sky130_fd_sc_hd__nor3_1
X33 20 32 33 sky130_fd_sc_hd__nand2_1
X34 12 30 31 33 binary.1 sky130_fd_sc_hd__nand4_1
X35 34 11 17 10 sky130_fd_sc_hd__o21ai_0
X36 14 15 35 sky130_fd_sc_hd__nor2_1
X37 binary.2 21 35 34 sky130_fd_sc_hd__o21ai_0
X38 36 20 22 7 23 sky130_fd_sc_hd__o31ai_1
X39 34 36 binary.3 sky130_fd_sc_hd__nand2_1



************************
* end of SPICE netlist *
************************